US09034866B2
Into a 2000-mL 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was placed a solution of 1-bromo-2-fluoro-4-iodobenzene (58 g, 192.76 mmol, 1.00 equiv) in tetrahydrofuran (600 mL), followed by the addition of i-PrMgCl (96.3 mL, 1.00 equiv) dropwise with stirring at 0° C. over 30 min. The mixture was stirred at 0° C. for 3 h. To this was added tert-butyl 3-oxocyclobutane-1-carboxylate (32.7 g, 192.12 mmol, 1.00 equiv) dropwise with stirring at −78° C. over 10 min. The mixture was stirred at −78 degree C. for 1 h and overnight at room temperature. The reaction was then quenched by the addition of 200 mL of saturated aqueous NH4Cl at 0° C. and extracted with 3×500 mL of ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under vacuum to afford 62 g (crude) of tert-butyl 3-(4-bromo-3-fluorophenyl)-3-hydroxycyclobutane-1-carboxylate as a yellow oil.

reactant | 1-bromo-2-fluoro-4-iodobenzene | 192.76 mmol, 58 g, 1.00 equiv | BrC1=C(C=C(C=C1)I)F | C6H3BrFI
reactant | i-PrMgCl | 96.3 mL, 1.00 equiv | C(C)(C)[Mg]Cl
reactant | tert-butyl 3-oxocyclobutane-1-carboxylate | 192.12 mmol, 32.7 g, 1.00 equiv | O=C1CC(C1)C(=O)OC(C)(C)C | C9H14O3
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
product | tert-butyl 3-(4-bromo-3-fluorophenyl)-3-hydroxycyclobutane-1-carboxylate | 62 g | BrC1=C(C=C(C=C1)C1(CC(C1)C(=O)OC(C)(C)C)O)F | C15H18BrFO3
